US07772226B2
(a) t-Butyl 5-methyl-4-oxo-4,5-dihydroimidazo[4,5-d]pyridazine-1-carboxylate
A mixture consisting of 1.0 g of 5-methyl-3,5-dihydroimidazo[4,5-d]pyridazin-4-one, 16 mg of 4-dimethylaminopyridine, 1.6 g of di-t-butyl dicarbonate, and 5 ml of tetrahydrofuran was stirred at room temperature overnight. Then, a 0.5-ml tetrahydrofuran solution containing 300 mg of di-t-butyl dicarbonate was added to the solution, and the resulting mixture was stirred at room temperature for three hours. 5 ml of t-butyl methyl ether was added to the reaction mixture, and the mixture was cooled with ice. The resulting crystals were collected by filtration to give 1.63 g of the title compound.

reactant | 5-methyl-3,5-dihydroimidazo[4,5-d]pyridazin-4-one | 1.0 g | CN1N=CC2=C(C1=O)NC=N2 | C6H6N4O
reactant | di-t-butyl dicarbonate | 1.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 0.5-ml | O1CCCC1 | C4H8O
reactant | di-t-butyl dicarbonate | 300 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 16 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | t-butyl methyl ether | 5 ml | COC(C)(C)C | C5H12O
product | t-Butyl 5-methyl-4-oxo-4,5-dihydroimidazo[4,5-d]pyridazine-1-carboxylate | 1.63 g | CN1N=CC2=C(C1=O)N=CN2C(=O)OC(C)(C)C | C11H14N4O3
